US04551529
Preparation of Guanine-N 7-oxide Hydrochloride
2-Amino-1,9-dihydro-6H-purin-6-one-7-oxide (52.3 mg, 0.31 mmol) was heated over a steam bath in 5 ml of 1.0M aqueous hydrochloric acid until it dissolved. The solution was filtered and allowed to cool to room temperature. Upon standing, 47.3 mg of the hydrochloride salt of 2-amino-1,9-dihydro-6H-purin-6-one-7-oxide precipitated as fine, white needles, mp >250° C.

reactant | 2-Amino-1,9-dihydro-6H-purin-6-one-7-oxide | 0.31 mmol, 52.3 mg | NC=1NC(C=2[N+](=CNC2N1)[O-])=O | C5H5N5O2
reactant | hydrochloric acid | 1.0M, 5 ml | Cl | ClH
product | Guanine-N 7-oxide Hydrochloride | Cl.N1=C(N)N=C2N=C[N+](=C2C1=O)[O-] | InChI=1S/C5H3N5O2.ClH/c6-5-8-3-2(4(11)9-5)10(12)1-7-3;/h1H,(H2,6,9,11);1H
